US05942644
Geotrichum candidum (ATCC 34614) is cultured according to the method of Buisson and Azerad (Tet. Lett. 27, 2631-2634 (1986), herein incorporated by reference) in one liter of a medium of glucose (30 grams), KH2PO4 (1 gram), K2HPO4 (2 grams), corn steep liquor (10 grams) MgSO4.7H2O (0.5 gram), NaNO3 (2 grams), FeSO4.7H2O (0.02 gram), and KCl (0.5 gram) with rotary shaking at 25° C. Two grams of 2-ethyl-3-ketobutyramide are dissolved in 2 ml of 95% ethanol, the resulting solution is added to the culture, and shaking is resumed. The reaction is followed by TLC (staining with anisaldehyde) to monitor the consumption of starting material and the production of product alcohol. After 48-72 hours the reaction is judged complete, and the reaction is terminated by removing from the shaker and adding 20-30 grams of Celite. The resulting suspension is suction filtered through a pad of Celite and the dear yellow filtrate is extracted with ethyl acetate (4×200 ml). The extracts are combined, dried over MgSO4, filtered, and rotary evaporated to leave 1 gram of (2S,3S)-2 ethyl-3-hydroxybutyramide as a yellowish solid.

reactant | glucose | 30 grams | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | KH2PO4 | 1 gram | OP(=O)(O)[O-].[K+]
reactant | K2HPO4 | 2 grams | OP(=O)([O-])[O-].[K+].[K+]
reactant | KCl | 0.5 gram | [Cl-].[K+]
reactant | 2-ethyl-3-ketobutyramide | Two grams | C(C)C(C(=O)N)C(C)=O | C6H11NO2
reactant | anisaldehyde | COC=1C=CC(=CC1)C=O | C8H8O2
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | (2S,3S)-2 ethyl-3-hydroxybutyramide | 1 gram | C(C)[C@H](C(=O)N)[C@H](C)O | C6H13NO2
